US06624309B1
C. 4-(Hexyloxy)-N-[(2-methylcyclohexyl)methyl]benzamide
To a suspension of title B compound (213 mg, 1.30 mmol) in THF (6 mL) was added triethylamine 0.42 mL, 3.0 mmol). After stirring for 5 minutes, 4-hexyloxybenzoyl chloride (0.223 mL, 1.00 mmol) was added. After stirring for 4 hours, the reaction was filtered through a Celite pad. The pad was rinsed with ether (4×5 mL) and the combined filtrates were concentrated in vacuo. Purification by RP-HPLC (YMC SH-365-10 120A S-110 30×500 mm column, 40 mL/minute, 90:10 methanol/water containing 0.1% TFA)) afforded the title compound as a 1:1 mixture of cis- and trans- isomers (43 mg). MS: (ESI) (m/z) 332.

reactant | triethylamine | 3.0 mmol, 0.42 mL | C(C)N(CC)CC | C6H15N
reactant | 4-hexyloxybenzoyl chloride | 1.00 mmol, 0.223 mL | C(CCCCC)OC1=CC=C(C(=O)Cl)C=C1 | C13H17ClO2
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 4-(Hexyloxy)-N-[(2-methylcyclohexyl)methyl]benzamide | C(CCCCC)OC1=CC=C(C(=O)NCC2C(CCCC2)C)C=C1 | C21H33NO2
